US07276606B2
(3-Fluoro-phenyl)-[6-(1H-indol-3-yl)-6H-phenanthridin-5-yl]-methanone was prepared from phenanthridine, 3-fluorobenzoyl chloride, and indole according to GP 2. Yield, 41%. 1H-NMR (DMSO-d6): δ=6.21 (d, J=1.9 Hz, 1H), 6.41 (s, br., 1H), 6.84 (t, J=7.5 Hz, 1H), 6.96 (d, J=7.5 Hz, 1H), 6.99-7.11 (m, 3H), 7.14 (ddd, J=J=7.7 Hz, J=0.8 Hz, 1H), 7.17-7.35 (m, 4H), 7.43 (ddd, J=J=7.4 Hz, J=1.1 Hz, 1H), 7.54 (“t”, J=7.2 Hz, 2H), 7.85 (“d”, J=7 Hz, 1H), 7.97 (dd, J=7.9 Hz, J=1.2 Hz, 1H), 8.11 (d, J=7.5 Hz, 1H), 10.71 (s, br., 1H); (+)-ESI-MS: m/z=419 [M+H]+, 302 [M−indole+H]+.

reactant | phenanthridine | C1=CC=CC2=NC=C3C=CC=CC3=C12 | C13H9N
reactant | 3-fluorobenzoyl chloride | FC=1C=C(C(=O)Cl)C=CC1 | C7H4ClFO
reactant | indole | N1C=CC2=CC=CC=C12 | C8H7N
product | (3-Fluoro-phenyl)-[6-(1H-indol-3-yl)-6H-phenanthridin-5-yl]-methanone | FC=1C=C(C=CC1)C(=O)N1C=2C=CC=CC2C2=CC=CC=C2C1C1=CNC2=CC=CC=C12 | C28H19FN2O
